US07470679B2
(S)-dimethyl 2-((7-bromo-3-chloro-4-(hydroxymethyl)-1H-indazol-5-yl)methyl)succinate
(S)-Diethyl 2-((4-(acetoxymethyl)-7-bromo-3-chloro-1H-indazol-5-yl)methyl)succinate (550 mg, 1.123 mmol) was dissolved in methanol (15 mL, 370 mmol). 6-10% Magnesium methoxide in methanol (3.4 mL, 2.57 mmol) was added to the mixture. Reaction stirred at room temperature for 18 hours. Reaction was quenched with 6 mL of 1N hydrochloric acid. Mixture stirred at room temperature for 10 minutes. Mixture was concentrated by roto-vap. Residue was suspended in water. Mixture was made basic with aqueous sodium bicarbonate. Material was extracted twice and the aqueous phase was discarded. Organics were dried MgSO4, filtered and then concentrated to dryness. Title compound was obtained as white solid in 96% yield. MS (M−H)−=419.0.

reactant | (S)-Diethyl 2-((4-(acetoxymethyl)-7-bromo-3-chloro-1H-indazol-5-yl)methyl)succinate | 1.123 mmol, 550 mg | C(C)(=O)OCC1=C2C(=NNC2=C(C=C1C[C@H](C(=O)OCC)CC(=O)OCC)Br)Cl | C19H22BrClN2O6
reactant | methanol | 370 mmol, 15 mL | CO | CH4O
reactant | Magnesium methoxide | C[O-].[Mg+2].C[O-]
reactant | methanol | 2.57 mmol, 3.4 mL | CO | CH4O
product | (S)-dimethyl 2-((7-bromo-3-chloro-4-(hydroxymethyl)-1H-indazol-5-yl)methyl)succinate | 96% yield | BrC=1C=C(C(=C2C(=NNC12)Cl)CO)C[C@H](C(=O)OC)CC(=O)OC | C15H16BrClN2O5
